US07579140B2
1.1 Preparation of 1-(3,5-Dinitrobenzyl)-2,3,3-trimethyl-3H-indolium iodide
To 2,3,3-trimethylindolenine (1.64 g) was added 3,5-dinitrobenzyl iodide (3.71 g) and dichlorobenzene (15 ml). After heating to 90° C. for 6 hours the mixture was allowed to cool and the resultant precipitate removed by filtration. The solid was washed with dichlorobenzene (2×10 ml) and ether (2×50 ml). The material was dried in a vacuum oven to give the product as a yellow solid (2.69 g).

reactant | 2,3,3-trimethylindolenine | 1.64 g | CC1=NC2=CC=CC=C2C1(C)C | C11H13N
reactant | 3,5-dinitrobenzyl iodide | 3.71 g | [N+](=O)([O-])C=1C=C(CI)C=C(C1)[N+](=O)[O-] | C7H5IN2O4
reactant | dichlorobenzene | 15 ml | C1=CC(=CC=C1Cl)Cl | C6H4Cl2
product | 1-(3,5-Dinitrobenzyl)-2,3,3-trimethyl-3H-indolium iodide | 2.69 g | [I-].[N+](=O)([O-])C=1C=C(C[N+]2=C(C(C3=CC=CC=C23)(C)C)C)C=C(C1)[N+](=O)[O-] | InChI=1S/C18H18N3O4.HI/c1-12-18(2,3)16-6-4-5-7-17(16)19(12)11-13-8-14(20(22)23)10-15(9-13)21(24)25;/h4-10H,11H2,1-3H3;1H/q+1;/p-1
